US08895544B2
{2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl}-(4-isopropyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl)-methanone
The title compound was prepared from (5-chloropyrazin-2-yl)(2-(6-(2-ethyl-5-fluoro-4-hydroxyphenyl)-1H-indazol-3-yl)-6,7-dihydro-1H-imidazo[4,5-c]pyridin-5(4H)-yl)methanone (80 mg, 154 μmol) and 1-isopropyl-piperazine, (40 mg, 308 μmol) using the method of Example 32. The crude material was purified by HPLC Method D to afford (18 mg, 19%) of the title compound as off-white solid.

reactant | (5-chloropyrazin-2-yl)(2-(6-(2-ethyl-5-fluoro-4-hydroxyphenyl)-1H-indazol-3-yl)-6,7-dihydro-1H-imidazo[4,5-c]pyridin-5(4H)-yl)methanone | 154 μmol, 80 mg | ClC=1N=CC(=NC1)C(=O)N1CC2=C(CC1)NC(=N2)C2=NNC1=CC(=CC=C21)C2=C(C=C(C(=C2)F)O)CC | C26H21ClFN7O2
reactant | 1-isopropyl-piperazine | 308 μmol, 40 mg | C(C)(C)N1CCNCC1 | C7H16N2
product | {2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl}-(4-isopropyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl)-methanone | 18 mg, 19% | C(C)C1=C(C=C(C(=C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)C(=O)C=2N=CC(=NC2)N2CCN(CC2)C(C)C)N1 | C33H36FN9O2
